US07501412B2
A mixture (1:1, 2.74 g) of 1-(1-ethoxycarbonylpiperidin-4-yl)-isoxazolo[5,4-c]isoquinolin-5(4H)-one and 1-(1-methoxycarbonylpiperidin-4-yl)-isoxazolo[5,4-c]isoquinolin-5(4H)-one was suspended in acetic acid (15 mL) and concentrated hydrochloric acid (15 mL), and the suspension was heated under reflux for 18 hrs. After the completion of the reaction, the solvent was evaporated. Water and a small amount of methanol were added to the precipitated crystals, and the obtained solution was washed with ethyl acetate, and the aqueous phase was concentrated under reduced pressure. The precipitated crystals were washed with isopropyl alcohol and collected by filtration to give 1-(piperidin-4-yl)-isoxazolo[5,4-c]isoquinolin-5(4H)-one hydrochloride (2.39 g).

reactant | 1-(1-ethoxycarbonylpiperidin-4-yl)-isoxazolo[5,4-c]isoquinolin-5(4H)-one | 2.74 g | C(C)OC(=O)N1CCC(CC1)C1=NOC=2NC(C=3C=CC=CC3C21)=O | C18H19N3O4
reactant | 1-(1-methoxycarbonylpiperidin-4-yl)-isoxazolo[5,4-c]isoquinolin-5(4H)-one | COC(=O)N1CCC(CC1)C1=NOC=2NC(C=3C=CC=CC3C21)=O | C17H17N3O4
reactant | hydrochloric acid | 15 mL | Cl | ClH
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 1-(piperidin-4-yl)-isoxazolo[5,4-c]isoquinolin-5(4H)-one hydrochloride | 2.39 g | Cl.N1CCC(CC1)C1=NOC=2NC(C=3C=CC=CC3C21)=O | InChI=1S/C15H15N3O2.ClH/c19-14-11-4-2-1-3-10(11)12-13(18-20-15(12)17-14)9-5-7-16-8-6-9;/h1-4,9,16H,5-8H2,(H,17,19);1H
